US08461328B2
A mixture of racemic trans 3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine (95.0 mg, 392 μmol), 2-bromoethyl methyl ether (59.9 mg, 431 μmol), potassium carbonate (108 mg, 780 μmol) and DMF (2 mL) was heated to 135° C. for 15 minutes using microwave irradiation. The mixture was filtered, concentrated in vacuo and purified by column chromatography on silica gel (gradient: DCM to 10% [2M NH3 in methanol] in DCM) followed by reverse phase HPLC (5 to 50% acetonitrile in water, +0.1% NH4OH). The colourless residue was treated with 1.25 M HCl in methanol (2 eq) in DCM and concentrated to afford 17.6 mg of racemic trans (2-methoxy-ethyl)-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-amine hydrochloride was isolated as a beige gum. LCMS (Method A, ESI): RT=1.92 min, m+H=301.3; 1H NMR (400 MHz, DMSO) δ: 12.35 (s, 1H), 8.99 (s, 1H), 7.60 (t, 1H), 7.00 (dd, 1H), 5.65 (m, 1H), 3.59 (m, 1H), 3.47 (t, 2H), 3.28 (s, 3H), 2.83 (t, 2H), 2.47 (m, 2H, partially obscured by DMSO), 2.29-2.17 (m, 3H), 1.72 (m, 1H).

reactant | racemic trans 3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine | 392 μmol, 95.0 mg | N1(N=NC2=CN=C3NC=CC3=C12)[C@@H]1C[C@H](CC1)N | C12H14N6
reactant | 2-bromoethyl methyl ether | 431 μmol, 59.9 mg | COCCBr | C3H7BrO
reactant | potassium carbonate | 780 μmol, 108 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1.25 M | Cl | ClH
reactant | methanol | 2 eq | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | racemic trans (2-methoxy-ethyl)-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-amine hydrochloride | 17.6 mg | Cl.COCCN[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3NC=CC3=C12 | InChI=1S/C15H20N6O.ClH/c1-22-7-6-16-10-2-3-11(8-10)21-14-12-4-5-17-15(12)18-9-13(14)19-20-21;/h4-5,9-11,16H,2-3,6-8H2,1H3,(H,17,18);1H/t10-,11-;/m0./s1
